US07964643B2
4′-Trifluoromethylbiphenyl-3-sulfonic acid (4-hydroxy-butyl)-amide (ABD-283)
Using a method analogous to that described in Example 40, 3-bromophenyl-sulfonic acid-(4-hydroxybutyl)-amide and 4-trifluoromethylphenyl boronic acid were reacted to give the title compound as a white solid.

reactant | 3-bromophenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC(=CC=C1)Br | C10H14BrNO3S
reactant | 4-trifluoromethylphenyl boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 4′-Trifluoromethylbiphenyl-3-sulfonic acid (4-hydroxy-butyl)-amide | OCCCCNS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C17H18F3NO3S
